US06028195
1-[N-Benzyl-N-(5,6-dimethyl-2-methoxypyridin-3-yl)aminocarbonyl]-4-(2-methoxyphenyl)piperazine
1-[(5,6-Dimethyl-2-methoxypyridin-3-yl)aminocarbonyl]-4-(2-methoxyphenyl)piperazine(100 mg, 0.27 mmol) was dissolved in dimethylformamide(15 ml) and thereto sodium hydride(6.5 mg, 0.27 mmol) was added, followed by stirring at room temperature for 1 hr, and successively benzyl bromide(46.2 mg, 0.27 mmol) was added. The resulting mixture was stirred at room temperature for 16 hrs, concentrated under the reduced pressure and purified by column chromatography(ethylacetate:hexane=1:2) to obtain the titled compound.

reactant | 1-[(5,6-Dimethyl-2-methoxypyridin-3-yl)aminocarbonyl]-4-(2-methoxyphenyl)piperazine | 0.27 mmol, 100 mg | CC=1C=C(C(=NC1C)OC)NC(=O)N1CCN(CC1)C1=C(C=CC=C1)OC | C20H26N4O3
reactant | sodium hydride | 0.27 mmol, 6.5 mg | [H-].[Na+]
reactant | benzyl bromide | 0.27 mmol, 46.2 mg | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 1-[N-Benzyl-N-(5,6-dimethyl-2-methoxypyridin-3-yl)aminocarbonyl]-4-(2-methoxyphenyl)piperazine | yield: 93% | C(C1=CC=CC=C1)N(C(=O)N1CCN(CC1)C1=C(C=CC=C1)OC)C=1C(=NC(=C(C1)C)C)OC | C27H32N4O3
